spice
* SPICE Netlist
* Components Definition
C1 8 7 <value_of_C1>
C2 7 4 <value_of_C2>
C3 4 2 <value_of_C3>
R1 7 1 <value_of_R1>
R2 4 1 <value_of_R2>
R4 4 6 <value_of_R4>
RF 5 2 <value_of_RF>
RD1 5 1 <value_of_RD1>
RD2 3 1 <value_of_RD2>

* Diodes (Assume D1, D2)
D1 2 3 Dmodel
D2 3 6 Dmodel

* Operational Amplifier
* Assume a generic op-amp model
XOP 2 5 Vout OPAMP

* Models
.model Dmodel D
.subckt OPAMP 2 5 8
* Sub-circuit for op-amp
.ends OPAMP

* Node Definitions
Vout 6 0 DC 0

* End of Netlist