* Transistors
Q1 2 8 7 NPN
Q2 4 3 7 PNP
Q3 3 5 6 PNP

* Diodes
D1 5 3 D
D2 6 7 D

* Resistors
R1 5 5 Res
R2 7 8 Res

* Current Sources
I_C1 8 2 DC 0
I_C2 4 6 DC 0
I_Q3 4 3 DC 0

* Voltage Sources
VCC 6 5 DC VCC
Vi 8 5 DC Vi

* Load Resistor
RL 7 5 Res