spice
* SPICE Netlist for the given schematic

* NPN BJT Transistor
Q1 Vout Vin VEE QNPN

* Current Source
I1 VEE Vin DC 0.01

* Resistor
RL Vout 2 1k

* Voltage Sources
VCC VCC 0 DC 12
VEE VEE 0 DC -12

* Model Definitions
.model QNPN NPN (IS=1E-14 BF=100)

* End of Netlist