spice
* Differential Amplifier Circuit

* Transistors
Q1 3 4 5 NPN
Q2 3 2 6 NPN

* Current Source
I1 3 0 DC 1A

* Resistor
RL 3 0 1k

* Voltage Sources
VCC 4 0 DC 15V
VEE 6 0 DC -15V
Vin 2 0 DC 1V

.model NPN NPN
.END