* SPICE Netlist

Vin 1 0 DC 0           * Voltage source Vin
R1 1 2 1k              * Resistor R1 between nodes 1 and 2
C1 2 0 1uF             * Capacitor C1 between nodes 2 and 0