* Circuit Netlist
V1 4 2 DC 0        * Voltage source Z2
L1 4 2 1uH         * Inductor L1
C1 2 3 1uF         * Capacitor C1
R1 3 2 1k          * Resistor R1