* Transistor Definitions
M1 3 Vin 0 0 NMOS
M2 Vout 2 VDD VDD PMOS

* Voltage Sources
Vin Vin 0 DC 0
VDD VDD 0 DC VDD_value
VTH1 3 2 DC VTH1_value

* End of Netlist