spice
* NMOS Transistor
M1 2 3 0 0 NMOS_MODEL

* Voltage Sources
VDD 2 0 DC X
Vin 3 0 DC Y

* Resistor
RD 2 2 1k

.model NMOS_MODEL NMOS (LEVEL=1)

* Control statements - example placeholders
*.op
*.dc Vin 0 5 0.1
*.end