spice
* NMOS Transistor
M1 Vout Vin GND GND NMOS

* Current Source
I1 VDD Vout DC I_value

* Voltage Source (for VDD)
VDD VDD GND DC V_value

* Example of .MODEL for NMOS (example values)
.model NMOS NMOS (KP=120u VT0=0.7)