* NMOS Transistor
M1 R_out1 4 rO rO NMOS

* Resistors
RrO rO 4 r_O_value
R_RD 3 2 RD_value

* Capacitor
C1 rO 4 C_value

* Nodes
VDD 3 0 DC VDD_value

* Ground
VSS 2 0 0