plaintext
* Circuit Description
VDD VDD 0 DC 5V
Vb Vb 0 DC 1V
Vin Vin 0 AC 1V

RD VDD vout 10k
R1 M1_Source 0 5k

C1 Vin M1_Gate 10u
M1 vout M1_Gate M1_Source M1_Source NMOS

Gm vout 0 VALUE = {1/gm}

.END