spice
* NMOS with drain, gate, source
M1 2 6 4 4 NMOS

* Resistors
R1 2 3 R1_value
R2 3 4 R2_value

* Voltage source and ground
V1 6 0 Vin
Vdd 2 0 DC Vdd_value

* Output
Vout 3

* DC supply
.dc Vin 0 Vdd_value 0.1

* Analysis
.op
.end