spice
* NMOS with gate at Vin, drain at Vout, source at Vb
M1 Vout Vin Vb Vb NMOS

* Resistor RD connected between VDD and Vout
RD VDD Vout 1k

* Voltage source Vb
Vb Vb 0 DC 5V

* DC Supply Voltage
VDD VDD 0 DC 10V

* .MODEL statement to define NMOS characteristics
.model NMOS NMOS (level=1)