spice
* NMOS Transistor
M1 2 4 4 2 NMOS_MODEL

* Resistors
RG 4 2 1k  ; Replace 1k with the actual resistance value if known
RD 3 2 1k  ; Replace 1k with the actual resistance value if known

* Voltage Source
VDD 3 0 DC 1.8V

* Model Declaration (Example, replace with actual parameters as needed)
.model NMOS_MODEL NMOS (Level=1)