spice
* Netlist for given schematic

VDD VDD 0 DC 1.8

R1 VDD 2 10k
R2 2 3 1k
R3 3 0 20k
RP 2 4 200
RS 4 0 Rs_value ; Rs_value should be the actual resistance value

M1 2 3 4 4 NMOS

.END