* SPICE Netlist

VDD VDD 0 DC 1.8

M1 Vout Vb 0 0 NMOS
M2 Vout Vin VDD VDD PMOS

Vin Vin 0 DC
Vb  Vb 0 DC

* NMOS model
.model NMOS NMOS 

* PMOS model
.model PMOS PMOS 

.end