spice
* Voltage Source
VDD 2 0 DC 1.8

* Resistors
RG Vin 2 10k
RS 4 0 1k

* NMOS Transistor
M1 4 3 0 0 NMOS

* Additional connections
Vin 1 0

* Model for NMOS
.model NMOS NMOS