spice
* NMOS Transistor
MNMOS 3 IN 4 4 NMOS_MODEL

* PMOS Transistor
MPMOS OUT 3 2 2 PMOS_MODEL

* Current Sources
IIBIAS1 5 3 DC VALUE
IIBIAS2 OUT 2 DC VALUE

* Voltage Source
VBIAS 3 VBIAS DC VALUE

.END