spice
* SPICE Netlist

VBIAS 2 0 DC 0
IBIAS 2 2 DC 0 

M2 2 3 5 5 NMOS
M1 5 4 6 6 NMOS

* Define NMOS model (Add specific model parameters if known)
.model NMOS NMOS