spice
* SPICE netlist for the given schematic

M1 8 3 2 2 NMOS
M2 6 9 8 8 NMOS
M3 4 6 2 2 NMOS

I_BIAS1 4 2 DC <VALUE>
I_BIAS2 5 6 DC <VALUE>

V_BIAS1 3 0 DC <VALUE>
V_BIAS2 9 0 DC <VALUE>

.END