* NMOS Transistors
M_MB81 4 9 2 2 NMOS
M_MB82 4 8 2 2 NMOS
M_MB82' 7 10 2 2 NMOS
M_MB83 5 4 2 2 NMOS
M_MB84 2 5 2 2 NMOS
M_MB85 5 6 2 2 NMOS
M_MB86 3 5 2 2 NMOS

* PMOS Transistors
M_MU1 5 6 11 11 PMOS
M_MU2 3 2 11 11 PMOS

* Voltage Sources
VDD 11 0 DC 1
VSS 2 0 DC 0
V_BIAS 7 0 DC 1