spice
* NMOS Transistor Model
.model NMOS NMOS

* Voltage Sources
V1 1 0 VDD
V2 0 9 VSS

* Current Source
I1 2 0 DC 10uA

* Resistor
R1 2 3 20k

* NMOS Transistors
M1 2 3 9 9 NMOS L=1u W=20u
M2 3 4 9 9 NMOS L=1u W=10u
M3 4 5 9 9 NMOS L=1u W=40u
M4 5 6 9 9 NMOS L=1u W=80u
M5 6 7 9 9 NMOS L=1u W=20u
M6 7 2 9 9 NMOS L=1u W=80u
M7 8 99 9 9 NMOS L=1u W=20u
M8 9 2 9 9 NMOS L=1u W=80u
M9 10 100 2 2 NMOS L=1u W=5u
M10 3 4 9 9 NMOS L=1u W=128u
M11 4 5 9 9 NMOS L=1u W=32u
M12 5 6 9 9 NMOS L=1u W=128u
M13 6 7 9 9 NMOS L=1u W=1u
M14 7 8 9 9 NMOS L=1u W=32u
M15 8 9 9 9 NMOS L=1u W=32u
M16 9 3 9 9 NMOS L=1u W=16u
M17 9 4 9 9 NMOS L=1u W=8u
M18 3 5 9 9 NMOS L=1u W=1u