spice
* PMOS Transistors (M1-M4)
M1 4 8 8 8 PMOS
M2 4 2 2 2 PMOS
M3 4 3 3 3 PMOS
M4 4 3 3 3 PMOS

* NMOS Transistors (M5-M8)
M5 2 2 10 10 NMOS
M6 3 3 3 11 NMOS
M7 2 2 10 10 NMOS
M8 3 3 3 11 NMOS

* Model definitions
.model PMOS PMOS
.model NMOS NMOS

.end