* PMOS Transistors
M23 2 1 12 12 PMOS
M24 10 5 12 12 PMOS

* NMOS Transistors
M21 7 1 2 2 NMOS
M22 8 3 5 5 NMOS
M25 9 6 4 4 NMOS

* Voltage Sources
VDD 12 0 DC VDD
VSS 4 0 DC -VSS
VBias 6 0 DC VBIAS4

* End of Netlist